US07851626B2
4-{(4S,5R)-4,5-Bis-(4-chlorophenyl)-1-[4-(3-methanesulfonylpropyl)-piperazine-1-carbonyl]-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl}-3-ethoxybenzonitrile
A solution of rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(4-cyano-2-ethoxy-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride (˜175 mg, 0.26 mmol) in dichloromethane (10 mL) and triethylamine (0.35 g, 3.34 mmol) at 0° C. was treated with 1-(3-methanesulfonylpropyl)piperazine (0.11 g, 0.39 mmol, prepared as described in Fotouhi, N. et a. WO 2005110996) for 0.5 h. The reaction was washed with cold water, dried over anhydrous magnesium sulfate, filtered and evaporated to give a solid. Trituration with ether and filtration gave the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 35% methanol in carbon dioxide). HR-MS (ES, m/z) calculated for C35H40N5O4SCl2 [(M+H)+] 696.2173, observed 696.2167.

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(4-cyano-2-ethoxy-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | 0.26 mmol, ˜175 mg | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C#N)OCC)C | C27H22Cl3N3O2
reactant | triethylamine | 3.34 mmol, 0.35 g | C(C)N(CC)CC | C6H15N
reactant | 1-(3-methanesulfonylpropyl)piperazine | CS(=O)(=O)CCCN1CCNCC1 | C8H18N2O2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-{(4S,5R)-4,5-Bis-(4-chlorophenyl)-1-[4-(3-methanesulfonylpropyl)-piperazine-1-carbonyl]-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl}-3-ethoxybenzonitrile | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCCS(=O)(=O)C)C1=C(C=C(C#N)C=C1)OCC)C | C35H39Cl2N5O4S
